US06303733B1
Alternate Preparation of 4-FLUORO-3′-(4-FLUOROBENZOYL)TOLANE
In a 250-mL three-neck, round-bottom flask equipped with a magnetic stirrer, a thermocouple, and a condenser were placed 5.00 g (0.04 Mol) of 1-ethynyl-4-fluorobenzene, 11.16 g (0.04 Mol) of 3-bromo-4′-fluorobenzophenone (from the first step), 0.1 g of triphenylphosphine, 0.05 g of cuprous iodide, 0.05 g of dichlorobis(triphenylphosphine)palladium[II], and 200 mL of de-aerated triethylamine. The reaction mixture was heated to 80° C. with stirring under argon for 4 hr and then cooled to ambient with stirring for an additional 16 hr (overnight). The reaction slurry was filtered to remove the white precipitate of triethylamine hydrobromide. The triethylamine solvent was evaporated and the solid was dissolved in dichloromethane. The resulting solution was washed with water (2×100 mL), 2% HCl (2×100 mL), brine and then dried over sodium sulfate. After filtration and removal of the solvent, the product was purified by crystallization from acetone yielding 23 g (75%)of white crystals having a melting point of 130-131° C. In an alternative experiment, during which recrystallization was carried out in toluene, the recovered pure rhombic needles of the product had a melting point of 135-136° C.

reactant | 1-ethynyl-4-fluorobenzene | 0.04 Mol, 5.00 g | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | 3-bromo-4′-fluorobenzophenone | 0.04 Mol, 11.16 g | BrC=1C=C(C(=O)C2=CC=C(C=C2)F)C=CC1 | C13H8BrFO
reactant | triphenylphosphine | 0.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 200 mL | C(C)N(CC)CC | C6H15N
product | 4-FLUORO-3′-(4-FLUOROBENZOYL)TOLANE | FC1=CC=C(C=C1)C#CC1=CC(=CC=C1)C(C1=CC=C(C=C1)F)=O | C21H12F2O
